US07737145B2
A slurry of 2-[4-(4-nitrophenoxy)phenyl]oxazole (2.6 g, 9.2 mmol) in a mixture of ethyl acetate (20 mL) and methanol (100 mL) was placed under a nitrogen atmosphere before the addition of catalyst palladium (10% on C, 0.65 g). The reaction mixture was placed under a hydrogen atmosphere at atmospheric pressure. After 3 hours, the reaction mixture was filtered through a pad of Celite and washed with methanol. The filtrate was concentrated to give the 2.4 g of 4-[4-(2-oxazolyl)phenoxy]benzenamine.

reactant | 2-[4-(4-nitrophenoxy)phenyl]oxazole | 9.2 mmol, 2.6 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)C=2OC=CN2)C=C1 | C15H10N2O4
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium | 0.65 g | [Pd] | Pd
product | 4-[4-(2-oxazolyl)phenoxy]benzenamine | 2.4 g | O1C(=NC=C1)C1=CC=C(OC2=CC=C(C=C2)N)C=C1 | C15H12N2O2
